US07250433B2
To a solution of 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid (12.5 g, 46.6 mmol) in THF (450 mL) was added HOBT (6.6 g, 48.9 mmol), 4-methylmorpholine (5.4 mL, 48.9 mmol) and EDC (9.83 g, 51.3 mmol). The reaction mixtured was stirred for 3 hours and then concentrated aqueous ammonium hydroxide (6.3 mL, 93.2 mmol) was added. The reaction mixture was stirred for 48 hours. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate (500 mL) and half saturated potassium hydrogen sulfate solution. The layers were separated. The organic layer was washed with half saturated potassium hydrogen sulfate, saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and evaporated to give 9.7 g (78%) of (1-carbamoyl-spiro[2.4]hept-1-ylmethyl)-carbamic acid tert-butyl ester as a white solid: 1H NMR (300 MHz, CDCl3) δ 0.74 (d, J=4.5 Hz, 1H), 1.38 (d, J=4.5 Hz, 1H), 1.44 (s, 9H), 1.6-1.8 (m, 7H), 1.83 (m, 1H), 3.15 (dd, J=5.1, 14.8 Hz, 1H), 3.65 (dd, J=5.1, 14.8 Hz, 1H), 5.0 (br s, 1H), 5.49 (br s, 1H), 6.45 (br s, 1H); MS (APCI) m/z 169 [M+H-100(Boc)]+.

reactant | 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid | 46.6 mmol, 12.5 g | C(C)(C)(C)OC(=O)NCC1(CC12CCCC2)C(=O)O | C14H23NO4
reactant | HOBT | 48.9 mmol, 6.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 48.9 mmol, 5.4 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 51.3 mmol, 9.83 g
reactant | ammonium hydroxide | 93.2 mmol, 6.3 mL | [OH-].[NH4+]
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | (1-carbamoyl-spiro[2.4]hept-1-ylmethyl)-carbamic acid tert-butyl ester | 9.7 g, 78% | C(C)(C)(C)OC(NCC1(CC12CCCC2)C(N)=O)=O | C14H24N2O3
